US06699904B2
A solution of 3-(4-{1-[3-(2,4-difluoro-phenyl)-1-heptyl-ureidomethyl]-cyclopropyl}-phenyl)-2-ethoxy-propionic acid methyl ester (50 mg, 0.094 mmol) and 1 M LiOH (0.283 mmol, 0.283 mL) in tetrahydrofuran (1 mL) was allowed to stir at room temperature for 18 hours. 2 N HCL was then added until the solution had a pH<2. After dilution with twice its volume in water, the aqueous layer was extracted with diethyl ether (2×). The organic layers were combined, washed with 2 M HCl (2×), dried over anhydrous sodium sulfate, and concentrated to give 3-(4-{1-[3-(2,4-difluoro-phenyl)-1-heptyl-ureidomethyl]-cyclopropyl}-phenyl)-2-ethoxy-propionic acid as a clear oil (30 mg, 61%).

reactant | 3-(4-{1-[3-(2,4-difluoro-phenyl)-1-heptyl-ureidomethyl]-cyclopropyl}-phenyl)-2-ethoxy-propionic acid methyl ester | 0.094 mmol, 50 mg | COC(C(CC1=CC=C(C=C1)C1(CC1)CN(C(=O)NC1=C(C=C(C=C1)F)F)CCCCCCC)OCC)=O | C30H40F2N2O4
reactant | LiOH | 0.283 mmol, 1 M, 0.283 mL | [Li+].[OH-]
solvent | tetrahydrofuran | 1 mL | O1CCCC1 | C4H8O
product | 3-(4-{1-[3-(2,4-difluoro-phenyl)-1-heptyl-ureidomethyl]-cyclopropyl}-phenyl)-2-ethoxy-propionic acid | 30 mg, 61% | FC1=C(C=CC(=C1)F)NC(N(CCCCCCC)CC1(CC1)C1=CC=C(C=C1)CC(C(=O)O)OCC)=O | C29H38F2N2O4
